US04003911
A. Triethyl 1-Acetamido-1,1,7-heptanetricarboxylate
In a dried flask was dissolved 23.0 g (1.0 g atom) of sodium and 600 ml. of ethanol dried by the method of R. H. Manski, J. Am. Chem. Soc., 53, 1106 (1931). To the solution of sodium ethoxide, under nitrogen, was added 217 g (1.0 mole) of dry diethyl acetamidomalonate and 1.0 g of dry sodium iodide. The resulting solution was heated at reflux while 249 g (1.05 mole) of ethyl 7-bromoheptanoate was added dropwise over a period of 1.5-2 hrs. After addition was completed, the reaction mixture was heated at reflux for 20-24 hrs. By the end of this time a drop of the reaction mixture applied to moist pH paper indicated pH 6-7. The reaction mixture was cooled to room temperature, mixed with 2 liters of water and extracted with ether twice. The combined organic layers were washed with water twice and then with saturated sodium chloride, dried over MgSO4 and evaporated under reduced pressure. The final stage of the evaporation was carried out at 70°-80° to remove last traces of solvent. The remaining oil, which weighed about 363 g, was distilled through a wiped-film molecular still (Rota-Film Molecular Still, All-Starr Scientific Equipment Supply Co., Pompano Beach, Fla.). A foreshot (about 45 g) was collected at about 100°/.01-.005 mm and discarded. Pure triethyl-1-acetamido-1,1,7-heptanetricarboxylate, about 316 g (85%), was then collected at 240°-250°/.005 mm. For other samples prepared similarly: HRMS Calcd for C18H31NO7 m/e 373.2099, measured 373.2078; pmr (CDCl3, TMS) δ1.25 (t, 9H, ethyl CH CH3 's), 2.03 (s, 3H, COCH3), 4.2 (q, 6H, OCH2), 6.95 (s, 1H, NH); ir (neat) 3480 (NH), 1735 (--CO2 --), 1680 (CONH), 1500, 1470, 11450, 1375, 1210 (OC2H5) cm-1.

reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | diethyl acetamidomalonate | 1.0 mole, 217 g | C(C)(=O)NC(C(=O)OCC)C(=O)OCC | C9H15NO5
reactant | sodium iodide | 1.0 g | [I-].[Na+]
reactant | ethyl 7-bromoheptanoate | 1.05 mole, 249 g | BrCCCCCCC(=O)OCC | C9H17BrO2
solvent | sodium | 23.0 g | [Na] | Na
solvent | water | 2 liters | O | H2O
product | Triethyl 1-Acetamido-1,1,7-heptanetricarboxylate | C(C)(=O)NC(CCCCCCC(=O)OCC)(C(=O)OCC)C(=O)OCC | C18H31NO7
